US06452014B1
4,5-Dichloro-2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]benzimidazole was prepared from 5-(4-formylbenzylidene)-2,4-thiazolidinedione and 3,4-dichloro-1,2-phenylenediamine by following General Procedure 2.

reactant | 5-(4-formylbenzylidene)-2,4-thiazolidinedione | C(=O)C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C11H7NO3S
reactant | 3,4-dichloro-1,2-phenylenediamine | ClC=1C(=C(C=CC1Cl)N)N | C6H6Cl2N2
product | 4,5-Dichloro-2-[4-[(2,4-dioxothiazolidin-5-ylidene)methyl]phenyl]benzimidazole | ClC1=C(C=CC=2N=C(NC21)C2=CC=C(C=C2)C=C2C(NC(S2)=O)=O)Cl | C17H9Cl2N3O2S
